US04837394
PREPARATION 4 3,5-Dicarbomethoxyphenyldiphenylphosphine
To a mixture of 17.0 g (4.31×10-2 mol) of 3,5-dicarbomethoxyphenyldiphenylphosphine oxide (from Preparation 3), 4.71 g (4.65×10-2 mol) of triethylamine and 196 ml of dry toluene under nitrogen was added 6.76 g (4.74×10-2 mol) of trichlorosilane. The mixture was then heated at reflux for 15.25 hr and cooled. A solution of 20% sodium hydroxide (49 ml) was added and the mixture was stirred. The organic layer was separated, washed with two 250 ml portions of water, dried over MgSO4 and concentrated to an oil which crystallized. The solid was recrystallized twice from methanol and dried. The yield of 3,5-dicarbomethoxyphenyldiphenylphosphine was 14.0 g (85.8% of theory); mp=103-4.5° C.

reactant | 3,5-dicarbomethoxyphenyldiphenylphosphine oxide | 4.31×10-2 mol, 17.0 g | C(=O)(OC)C=1C=C(C=C(C1)C(=O)OC)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C22H19O5P
reactant | triethylamine | 4.65×10-2 mol, 4.71 g | C(C)N(CC)CC | C6H15N
reactant | trichlorosilane | 4.74×10-2 mol, 6.76 g | Cl[SiH](Cl)Cl | Cl3HSi
reactant | sodium hydroxide | 49 ml | [OH-].[Na+]
solvent | toluene | 196 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-Dicarbomethoxyphenyldiphenylphosphine | C(=O)(OC)C=1C=C(C=C(C1)C(=O)OC)P(C1=CC=CC=C1)C1=CC=CC=C1 | C22H19O4P
